### PR TITLE
feat: behavior of the counting function under addition

### PR DESCRIPTION
**Pull request by kebekus**
Establish the behavior of the "Proximity Function" of Value Distribution theory with respect to addition.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. The formula established here is part of a larger package discussing the behavior of the Nenvanlinna height under algebraic manipulations of the functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 1]
```diff
@@ -221,6 +221,19 @@ theorem log_counting_zero_sub_logCounting_top {f : 𝕜 → E} :
...
+-/
+@[simp] theorem logCounting_const {c : E} {e : WithTop E} :
+    logCounting (fun _ ↦ c : 𝕜 → E) e = 0 := by
+  simp [logCounting]
+
+/--
+The counting function of the constant function zero is zero.
+-/
+@[simp] theorem logCounting_const_zero {e : WithTop E} :
+    logCounting (0 : 𝕜 → E) e = 0 := logCounting_const
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean:249]: Probably you also want this for `1`.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 2]
```diff
@@ -260,6 +273,56 @@ function counting poles.
 ## Behaviour under Arithmetic Operations
 -/
 
+/--
+For `1 ≤ r`, the counting function of `f + g` at `⊤` is less than or equal to
+the sum of the counting functions of `f` and `g`, respectively.
+-/
+theorem counting_top_add_le {f₁ f₂ : 𝕜 → E} {r : ℝ} (h₁f₁ : MeromorphicOn f₁ Set.univ)
+  (h₁f₂ : MeromorphicOn f₂ Set.univ) (hr : 1 ≤ r) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]:
```suggestion
    (h₁f₂ : MeromorphicOn f₂ Set.univ) (hr : 1 ≤ r) :
```

Comment (j-loreaux) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: also, did you ever ask on Zulip about having a `Meromorphic` predicate? It would be so much nicer than seeing all these `Set.univ`s everywhere.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 3]
```diff
@@ -260,6 +273,56 @@ function counting poles.
...
+  simp only [logCounting, ↓reduceDIte]
+  rw [← Function.locallyFinsuppWithin.logCounting.map_add]
+  exact Function.locallyFinsuppWithin.logCounting_le (negPart_divisor_add_le_add h₁f₁ h₁f₂) hr
+
+/--
+Asymptotically, the counting function of `f + g` at `⊤` is less than or equal to the sum of the
+counting functions of `f` and `g`, respectively.
+-/
+theorem counting_top_add_eventually_le {f₁ f₂ : 𝕜 → E} (h₁f₁ : MeromorphicOn f₁ Set.univ)
+  (h₁f₂ : MeromorphicOn f₂ Set.univ) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]:
```suggestion
    (h₁f₂ : MeromorphicOn f₂ Set.univ) :
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 4]
```diff
@@ -260,6 +273,56 @@ function counting poles.
...
+    logCounting (f₁ + f₂) ⊤ r ≤ ((logCounting f₁ ⊤) + (logCounting f₂ ⊤)) r := by
+  simp only [logCounting, ↓reduceDIte]
+  rw [← Function.locallyFinsuppWithin.logCounting.map_add]
+  exact Function.locallyFinsuppWithin.logCounting_le (negPart_divisor_add_le_add h₁f₁ h₁f₂) hr
+
+/--
+Asymptotically, the counting function of `f + g` at `⊤` is less than or equal to the sum of the
+counting functions of `f` and `g`, respectively.
+-/
+theorem counting_top_add_eventually_le {f₁ f₂ : 𝕜 → E} (h₁f₁ : MeromorphicOn f₁ Set.univ)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: It's possible I didn't catch this in your other PRs about the counting and proximity functions. Can you check when you get a chance? This is how we refer to `≤ᶠ[filter]`
```suggestion
theorem counting_top_add_eventuallyLE {f₁ f₂ : 𝕜 → E} (h₁f₁ : MeromorphicOn f₁ Set.univ)
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 5]
```diff
@@ -260,6 +273,56 @@ function counting poles.
...
+  (h₁f₂ : MeromorphicOn f₂ Set.univ) :
+    logCounting (f₁ + f₂) ⊤ ≤ᶠ[Filter.atTop] (logCounting f₁ ⊤) + (logCounting f₂ ⊤) := by
+  filter_upwards [Filter.eventually_ge_atTop 1]
+  exact fun _ hr ↦ counting_top_add_le h₁f₁ h₁f₂ hr
+
+/--
+For `1 ≤ r`, the counting function of a sum `∑ a, f a` at `⊤` is less than or
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: To make it more clear that you mean `Finset.sum`
```suggestion
For `1 ≤ r`, the counting function of a sum `∑ a ∈ s, f a` at `⊤` is less than or
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 6]
```diff
@@ -260,6 +273,56 @@ function counting poles.
...
+equal to the sum of the counting functions of `f ·`.
+-/
+theorem counting_top_sum_le {α : Type*} (s : Finset α) (f : α → 𝕜 → E) {r : ℝ}
+  (h₁f : ∀ a, MeromorphicOn (f a) Set.univ) (hr : 1 ≤ r) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]:
```suggestion
    (h₁f : ∀ a, MeromorphicOn (f a) Set.univ) (hr : 1 ≤ r) :
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 7]
```diff
@@ -260,6 +273,56 @@ function counting poles.
...
+  induction s using Finset.induction with
+  | empty =>
+    simp
+  | insert a s ha hs =>
+    rw [Finset.sum_insert ha, Finset.sum_insert ha]
+    calc logCounting (f a + ∑ x ∈ s, f x) ⊤ r
+    _ ≤ (logCounting (f a) ⊤ + logCounting (∑ x ∈ s, f x) ⊤) r :=
+      counting_top_add_le (h₁f a) (MeromorphicOn.sum h₁f) hr
+    _ ≤ (logCounting (f a) ⊤ + ∑ x ∈ s, logCounting (f x) ⊤) r :=
+      add_le_add (by trivial) hs
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: I think this is the style dictated by the style guide. At the very least, it fits with Lean's general rule of "indent blocked code"
```suggestion
      _ ≤ (logCounting (f a) ⊤ + logCounting (∑ x ∈ s, f x) ⊤) r :=
        counting_top_add_le (h₁f a) (MeromorphicOn.sum h₁f) hr
      _ ≤ (logCounting (f a) ⊤ + ∑ x ∈ s, logCounting (f x) ⊤) r :=
        add_le_add (by trivial) hs
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 8]
```diff
@@ -260,6 +273,56 @@ function counting poles.
...
+
+/--
+Asymptotically, the counting function of a sum `∑ a, f a` at `⊤` is less than or
+equal to the sum of the counting functions of `f ·`.
+-/
+theorem counting_top_sum_eventually_le {α : Type*} (s : Finset α) (f : α → 𝕜 → E)
+  (h₁f : ∀ a, MeromorphicOn (f a) Set.univ) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]:
```suggestion
/--
Asymptotically, the counting function of a sum `∑ a ∈ s, f a` at `⊤` is less than or
equal to the sum of the counting functions of `f ·`.
-/
theorem counting_top_sum_eventuallyLE {α : Type*} (s : Finset α) (f : α → 𝕜 → E)
    (h₁f : ∀ a, MeromorphicOn (f a) Set.univ) :
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 9]
```diff
@@ -508,21 +508,36 @@ theorem meromorphicOrderAt_inv {f : 𝕜 → 𝕜} :
 @[deprecated (since := "2025-05-22")]
 alias MeromorphicAt.order_inv := meromorphicOrderAt_inv
 
+/--
+Adding a locally vanishing function does not change the order.
+-/
+@[simp]
+theorem meromorphicOrderAt_add_top_left
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Order.lean:519]: I would suggest `meromorphicOrderAt_add_of_top_left`, since you aren't really adding `⊤`. An alternative (which I like much less) if we really want to consider it as adding `⊤`, would be `meromorphicOrder_top_add`.

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 10]
```diff
@@ -508,21 +508,36 @@ theorem meromorphicOrderAt_inv {f : 𝕜 → 𝕜} :
...
+    meromorphicOrderAt (f₁ + f₂) x = meromorphicOrderAt f₂ x := by
+  rw [meromorphicOrderAt_congr]
+  filter_upwards [meromorphicOrderAt_eq_top_iff.1 hf₁] with z hz
+  simp_all
+
+/--
+Adding a locally vanishing function does not change the order.
+-/
+@[simp]
+theorem meromorphicOrderAt_add_top_right
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Order.lean:530]: likewise

File: Mathlib/Analysis/Meromorphic/Divisor.lean [hunk 11]
```diff
@@ -160,6 +160,56 @@ The divisor of a constant function is `0`.
...
+-/
+theorem negPart_divisor_add_le_add {f₁ f₂ : 𝕜 → E} {U : Set 𝕜} (hf₁ : MeromorphicOn f₁ U)
+    (hf₂ : MeromorphicOn f₂ U) :
+    (divisor (f₁ + f₂) U)⁻ ≤ (divisor f₁ U)⁻ + (divisor f₂ U)⁻ := by
+  calc (divisor (f₁ + f₂) U)⁻
+  _ ≤ max (divisor f₁ U)⁻ (divisor f₂ U)⁻ :=
+    negPart_divisor_add_le_max hf₁ hf₂
+  _ ≤ (divisor f₁ U)⁻ + (divisor f₂ U)⁻ := by
+    by_cases h : (divisor f₁ U)⁻ ≤ (divisor f₂ U)⁻
+    <;> simp_all [negPart_nonneg]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Divisor.lean]:
```suggestion
    _ ≤ max (divisor f₁ U)⁻ (divisor f₂ U)⁻ :=
      negPart_divisor_add_le_max hf₁ hf₂
    _ ≤ (divisor f₁ U)⁻ + (divisor f₂ U)⁻ := by
      by_cases h : (divisor f₁ U)⁻ ≤ (divisor f₂ U)⁻
      <;> simp_all [negPart_nonneg]
```

**Review by j-loreaux — COMMENTED** [review]
You use the name `counting` sometimes. I would argue for `logCounting` everywhere, both for consistency and because it better matches our naming conventions.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean [hunk 12]
```diff
@@ -260,6 +273,56 @@ function counting poles.
 ## Behaviour under Arithmetic Operations
 -/
 
+/--
+For `1 ≤ r`, the counting function of `f + g` at `⊤` is less than or equal to
+the sum of the counting functions of `f` and `g`, respectively.
+-/
+theorem counting_top_add_le {f₁ f₂ : 𝕜 → E} {r : ℝ} (h₁f₁ : MeromorphicOn f₁ Set.univ)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean:294]: I think this is a better name, and likely applies elsewhere. Note the two aspects in which it differs.
```suggestion
theorem logCounting_add_top_le {f₁ f₂ : 𝕜 → E} {r : ℝ} (h₁f₁ : MeromorphicOn f₁ Set.univ)
```

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean:249]: This might be a misunderstanding. In this theorem, `E` is a vector space, so that the type `𝕜 → E` comes with a preferred zero, but does not have a `1`.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: Zulip is here:

- https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Introducing.20.60Meromorphic.60/with/558182437

Sorry for being so slow.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: Names changed as requested, also in other files.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean]: Implemented as suggested.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean:519]: Implemented.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 10 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Order.lean:530]: Implemented.

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean (hunk 12 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean:294]: The name has been changed as requested, also in the other files of this directory, as well as for "top_sum", "top_mul", and "zero_…".

File: Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Complex/ValueDistribution/CountingFunction.lean:249]: no, sorry, that was just sloppy review. I was thinking `𝕜`. My bad.
